US06858585B1
To a solution of 3-hydroxymyristic acid (5.00 g) and triethylamine (2.85 g) in DMF (50 ml) was added benzyl bromide (2.43 ml) and the mixture was stirred at room temperature overnight. After the solvent was removed in vacuo, to the residue were added ethyl acetate and water. The separated ethyl acetate layer was washed twice with water and then dried over anhydrous sodium sulfate. After the ethyl acetate was removed in vacuo, purification was carried out by a silica gel column chromatography (silica gel 30 g, chloroform:methanol=100:0-10) to afford 3.69 g of benzyl 3-hydroxymyristate.

reactant | 3-hydroxymyristic acid | 5.00 g | OC(CC(=O)O)CCCCCCCCCCC | C14H28O3
reactant | triethylamine | 2.85 g | C(C)N(CC)CC | C6H15N
reactant | benzyl bromide | 2.43 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | benzyl 3-hydroxymyristate | 3.69 g | OC(CC(=O)OCC1=CC=CC=C1)CCCCCCCCCCC | C21H34O3
